US07388015B2
2-{4-Methyl-5-[2-(3-nitro-phenylamino)-pyrimidin-4-yl]-thiazol-2-ylamino}-ethanol [58]
To a mixture of [4-(2-amino-4-methyl-thiazol-5-yl)-pyrimidin-2-yl]-(3-nitro-phenyl)-amine (0.33 g, 1.0 mmol) and iodoethanol (0.44 g, 2.6 mmol) in dry DMF (2 mL) was added tert-butylimino-2-diethylamino-1,3-dimethylperhydro-1,3-diazaphosphorine (0.5 mL). The reaction mixture was heated at 124° C. for 20 h. The product was isolated as a brown solid by preparative RP-HPLC (Vydac 218TP1022, 9 mL/min) using a gradient from 10-70% MeCN in 0.1% aq CF3COOH over 40 min. Anal. RP-HPLC: tR=14.30 min (Vydac 218TP54, 0-60% MeCN in 0.1% aq CF3COOH over 20 min, 1 mL/min, 25° C., purity>97%). 1H-NMR (CD3OD) δ: 3.30 (s, 3H, CH3), 3.91 (t, 2H, J=4.6 Hz, CH2), 4.25 (t, 2H, J=4.6 Hz, CH2), 7.21 (d, 1H, J=5.2 Hz, pyrimidinyl-H), 7.54 (m, 1H, Ph-H), 7.89 (m, 2H, Ph-H), 8.59 (d, 1H, J=5.2 Hz, pyrimidinyl-H), 8.90 (s, 1H, Ph-H).

reactant | [4-(2-amino-4-methyl-thiazol-5-yl)-pyrimidin-2-yl]-(3-nitro-phenyl)-amine | 1.0 mmol, 0.33 g | NC=1SC(=C(N1)C)C1=NC(=NC=C1)NC1=CC(=CC=C1)[N+](=O)[O-] | C14H12N6O2S
reactant | iodoethanol | 2.6 mmol, 0.44 g | IC(C)O | C2H5IO
reactant | tert-butylimino-2-diethylamino-1,3-dimethylperhydro-1,3-diazaphosphorine | 0.5 mL | C(C)(C)(C)N=C1N(P(N(CC1)C)N(CC)CC)C | C13H29N4P
reactant | MeCN | CC#N | C2H3N
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | CF3COOH | C(=O)(C(F)(F)F)O | C2HF3O2
product | 2-{4-Methyl-5-[2-(3-nitro-phenylamino)-pyrimidin-4-yl]-thiazol-2-ylamino}-ethanol | CC=1N=C(SC1C1=NC(=NC=C1)NC1=CC(=CC=C1)[N+](=O)[O-])NCCO | C16H16N6O3S
